US04214094
A mixture of 6.14 g of ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate, 130 ml of 95% ethanol and 52 ml of 1 N aqueous solution of sodium hydroxide is stirred at 70° C. for 50 minutes. After concentrating the reaction mixture under reduced pressure, the residue is dissolved in water and the solution is washed with ether five times. To the aqueous solution is added 55 ml of 1 N hydrochloric acid with cooling, and the precipitated crystals are extracted twice with ether. The extract is washed with water twice, then dried over magnesium sulfate and thereafter the solvent is distilled off to give 5.6 g of 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionic acid, colorless crystals, mp 155° to 158° C.

reactant | ethyl 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionate | 6.14 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)OCC)(C)C)C=C2)C=C1 | C19H22ClNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | 2-[4-(4-chloroanilinomethyl)phenoxy]-2-methylpropionic acid | 5.6 g | ClC1=CC=C(NCC2=CC=C(OC(C(=O)O)(C)C)C=C2)C=C1 | C17H18ClNO3
